US08309580B2
(4) 2-methyl-5-phenylthiophene-3-carbaldehyde
To a mixture of 2-(5-bromo-2-methylthiophen-3-yl)-1,3-dioxolane (3.50 g) synthesized above, phenylboronic acid (2.56 g), sodium carbonate (2.96 g), water (10 mL) and N,N-dimethylformamide (50 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II).dichloromethane adduct (1.14 g). The reaction mixture was deaerated, and the mixture was stirred at 80° C. for 3 hr under an argon atmosphere. Saturated aqueous ammonium chloride solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium hydrogen carbonate and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane) to give a yellow oil. To a solution of the obtained oil in tetrahydrofuran (20 mL) was added 1N hydrochloric acid (10 mL), and the mixture was stirred at room temperature for 1 hr. Tetrahydrofuran was evaporated using evaporator, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (1.72 g, 61%) as a pale-yellow solid.

reactant | 2-(5-bromo-2-methylthiophen-3-yl)-1,3-dioxolane | 3.50 g | BrC1=CC(=C(S1)C)C1OCCO1 | C8H9BrO2S
reactant | phenylboronic acid | 2.56 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2.96 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | 1.14 g | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 2-methyl-5-phenylthiophene-3-carbaldehyde | 1.72 g, 61% | CC=1SC(=CC1C=O)C1=CC=CC=C1 | C12H10OS
